US07135502B1
N-Acetyl-colchicinol (0.3 g; 0.84 mmol) was added under argon atmosphere to a solution of adipic acid (0.147 g; 1 mmol, O-(7-(azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.383 g; 1 mmol) and diisopropylethylamine (0.352 ml; 2 mmol) in acetonitrile (20 ml). The reaction mixture was stirred at ambient temperature overnight and evaporated to dryness. The residue was taken up in water (4 ml), the pH was adjusted to 6.5 with 0.1M hydrochloric acid. The solution was purified by preparative HPLC eluting with a 0–40% gradient of methanol/ammonium carbonate buffer (2 g/l pH7) to give 5-[{(5S)-5-(acetylamino)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-3-yl}oxycarbonyl]pentanoic acid.

reactant | N-Acetyl-colchicinol | 0.84 mmol, 0.3 g | CC(=O)NC1CCC2=CC(=C(C(=C2C3=C1C=C(C=C3)O)OC)OC)OC | C20H23NO5
reactant | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | diisopropylethylamine | 2 mmol, 0.352 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-[{(5S)-5-(acetylamino)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-3-yl}oxycarbonyl]pentanoic acid | Yield: 31% | C(C)(=O)N[C@H]1CCC2=C(C3=C1C=C(C=C3)OC(=O)CCCCC(=O)O)C(=C(C(=C2)OC)OC)OC | C26H31NO8
